US06225311B1
A solution of 0.219 g (0.507 mmol) of methyl(2R)-[4-(2-aminoethoxy)phenyl]({[4(2-butynyloxy)phenyl]sulfonyl}amino)ethanoate in 2.5 mL of acetic anhydride and 0.25 mL of pyridine was stirred at room temperature for 15 h and then concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexanes (1:1) to provide 0.213 g of methyl (2R)-{4-[2-(acetylamino)ethoxy]phenyl}({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-ethanoate as a white foam. Electrospray Mass Spec 475.3 (M+H)+

reactant | methyl(2R)-[4-(2-aminoethoxy)phenyl]({[4(2-butynyloxy)phenyl]sulfonyl}amino)ethanoate | 0.507 mmol, 0.219 g | NCCOC1=CC=C(C=C1)[C@H](C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C21H24N2O6S
reactant | acetic anhydride | 2.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
product | methyl (2R)-{4-[2-(acetylamino)ethoxy]phenyl}({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-ethanoate | 0.213 g | C(C)(=O)NCCOC1=CC=C(C=C1)[C@H](C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C23H26N2O7S
